US07666888B2
2-{(3R)-1-[(3-pyridin-2-ylisoxazol-4-yl)carbonyl]piperidin-3-yl}propan-2-ol
A solution of 2-[(3R)-piperidin-3-yl]propan-2-ol hydrochloride (7 mg, 0.039 mmol), TBTU (15 mg, 0.047 mmol, 1.2 equ.) and N-ethyl-N-isopropylpropan-2-amine (14 μL, 0.079 mmol, 2 equ.) in DMF (0.3 mL) was added to 5-pyridin-2-ylisoxazole-4-carboxylic acid (7 mg, 0.039 mmol) and the reaction mixture was stirred at rt for 2 h. The solvent was evaporated and the crude product was purified by RP-HPLC. After evaporation of the solvents from the pure fractions, the residue was dissolved in chloroform and washed with diluted NaOH to provide the neutral compound in the organic phase that was dried (Na2SO4) and evaporated and dried in vacuum to yield the title compound (6 mg). MS (ESI, pos. ion) m/z calcd for C17H21N3O3: 315.1583, found 315.1586.

reactant | 2-[(3R)-piperidin-3-yl]propan-2-ol hydrochloride | 0.039 mmol, 7 mg | Cl.N1C[C@@H](CCC1)C(C)(C)O
reactant | TBTU | 0.047 mmol, 15 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.079 mmol, 14 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 5-pyridin-2-ylisoxazole-4-carboxylic acid | 0.039 mmol, 7 mg | N1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C9H6N2O3
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 2-{(3R)-1-[(3-pyridin-2-ylisoxazol-4-yl)carbonyl]piperidin-3-yl}propan-2-ol | 6 mg | N1=C(C=CC=C1)C1=NOC=C1C(=O)N1C[C@@H](CCC1)C(C)(C)O | C17H21N3O3
